US04921851
In 30 ml of ethanol is suspended 1.46 g of 2-hydroxyethylmercaptan. With ice-cooling, 897 mg of sodium hydride (oily, 60 wt.%) is added and the mixture is stirred for 10 minutes. Then, 1.91 g of 6-chloroimidazo[1,2-b]pyridazine is added and the mixture is stirred at room temperature for 6 hours. The solvent is distilled off under reduced pressure and the residue is shaken well with dichloromethane and water. The dichloromethane layer is separated and dried over magnesium sulfate and the solvent is distilled off under reduced pressure. The residue is subjected to silica gel (200 g) column chromatography and after the column is washed with ethyl acetate, elution is carried out with acetone. The fractions rich in the desired compound are pooled and the solvent is distilled off under reduced pressure. To the residue are added dichloromethane and isopropyl ether and the resulting pale-brown powder is collected by filtration. This procedure gives 500 mg of 6-(2-hydroxyethylthio)imidazo[1,2-b]pyridazine.

reactant | 2-hydroxyethylmercaptan | 1.46 g | OCCS | C2H6OS
reactant | sodium hydride | 897 mg | [H-].[Na+]
reactant | 6-chloroimidazo[1,2-b]pyridazine | 1.91 g | ClC=1C=CC=2N(N1)C=CN2 | C6H4ClN3
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 6-(2-hydroxyethylthio)imidazo[1,2-b]pyridazine | 500 mg | OCCSC=1C=CC=2N(N1)C=CN2 | C8H9N3OS
